US05409956
Preparation of ethyl[2-(t-butoxycarbonylaminomethyl)indan-5-oxy]acetate:
1.85 g (6.20 mmol) of 2-(t-butoxycarbonylaminomethyl)5-hydroxyindan was dissolved in 20 ml of acetone, to which were added 1.52 g (11.0 mmol) of potassium carbonate and 1.10 g (6.60 mmol) of ethyl bromoacetate, and refluxed for 3.5 hours. After cooling, the precipitates were filtrated, and the residue obtained by condensing the filtrate was purified by silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 1.90 g of colorless crystals. Yield: 80%

reactant | 2-(t-butoxycarbonylaminomethyl)5-hydroxyindan | 6.20 mmol, 1.85 g | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2C1)O | C15H21NO3
reactant | potassium carbonate | 11.0 mmol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 6.60 mmol, 1.10 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | ethyl[2-(t-butoxycarbonylaminomethyl)indan-5-oxy]acetate | 1.90 g, Yield: 80% | C(C)OC(COC=1C=C2CC(CC2=CC1)CNC(=O)OC(C)(C)C)=O | C19H27NO5
